US07091220B2
[(5-Chloro-1H-indol-3-yl)-(2-trifluoromethyl-phenyl)-methyl]-dimethyl-amine
The preparation was carried out in accordance with general synthesis instructions 4 from 5-chloro-1H-indole and (2-trifluoromethyl-benzylidene)-dimethylammonium chloride, which had been prepared in accordance with example 44 from 2-trifluoromethyl-benzaldehyde and dimethylamine.

reactant | 5-chloro-1H-indole | ClC=1C=C2C=CNC2=CC1 | C8H6ClN
reactant | (2-trifluoromethyl-benzylidene)-dimethylammonium chloride | [Cl-].FC(C1=C(C=[N+](C)C)C=CC=C1)(F)F
reactant | 2-trifluoromethyl-benzaldehyde | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | dimethylamine | CNC | C2H7N
product | [(5-Chloro-1H-indol-3-yl)-(2-trifluoromethyl-phenyl)-methyl]-dimethyl-amine | ClC=1C=C2C(=CNC2=CC1)C(C1=C(C=CC=C1)C(F)(F)F)N(C)C | C18H16ClF3N2
